datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n:10]1.Cc1cc2ccccc2c(C(=O)[O:21][H:20])c1C>>COc1cc(S(C)=O)ccc1-c1[nH]c2cc(N)cnc2[n+:10]1[H:20].Cc1cc2ccccc2c(C(=O)[O-:21])c1C 10=20;20,21=21",
"O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=C([O-])C(CO)[NH2+]Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc(C)c([O-:10])cc1C(C)C.Cc1ccc(C(=O)N[O:21][H:20])cc1>>Cc1cc(C)c([O:10][H:20])cc1C(C)C.Cc1ccc(C(=O)N[O-:21])cc1 10=20;20,21=21",
"C#CC(C)(C(C)C)[N:10](C)C(C)C.C=Cc1cccc[n+:21]1[H:20]>>C#CC(C)(C(C)C)[N+:10](C)(C(C)C)[H:20].C=Cc1cccc[n:21]1 10=20;20,21=21",
"C[NH2+]CC[NH2:10].c1ccc([N+:21](c2ccccc2)(c2ccccc2)[H:20])cc1>>C[NH2+]CC[NH2+:10][H:20].c1ccc([N:21](c2ccccc2)c2ccccc2)cc1 10=20;20,21=21",
"O=C1C=COC(C(=O)[O:21][H:20])=C1.O=S(=O)([O-])c1ccc([O-:10])c2[nH]ncc12>>O=C1C=COC(C(=O)[O-:21])=C1.O=S(=O)([O-])c1ccc([O:10][H:20])c2[nH]ncc12 10=20;20,21=21",
"CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S-:10].Nc1ccc(S(=O)(=O)[N:21](c2nncs2)[H:20])cc1>>CC(C)(C(C(=O)[O-])n1ccnc1Cc1ccccc1)[S:10][H:20].Nc1ccc(S(=O)(=O)[N-:21]c2nncs2)cc1 10=20;20,21=21",
"O=S(=O)([O-])c1c([O-:10])ccc2[nH]ncc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=S(=O)([O-])c1c([O:10][H:20])ccc2[nH]ncc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1nc(NCc2ccco2)c2cn[nH]c2[n:10]1.O=C([O-])c1ncccc1[NH2+:21][H:20]>>Cc1nc(NCc2ccco2)c2cn[nH]c2[n+:10]1[H:20].O=C([O-])c1ncccc1[NH2:21] 10=20;20,21=21",
"CC(C)(Cl)C(=O)[O:21][H:20].N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2:10]>>CC(C)(Cl)C(=O)[O-:21].N[C@H]1C[C@@H]2CCCC[C@H]2C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"OCCCCCC[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>OCCCCCC[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1cc(N)c2cccnc2c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Nc1cc(N)c2cccnc2c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)C(N(C)C)=[N:10]C.Cc1c(O)c(C[NH3+])c(CO)c[n+:21]1[H:20]>>CN(C)C(N(C)C)=[N+:10](C)[H:20].Cc1c(O)c(C[NH3+])c(CO)c[n:21]1 10=20;20,21=21",
"CCCC(=O)O[O:21][H:20].CC[NH+](CC)C/C(=N\[O-:10])C(C)=NO>>CCCC(=O)O[O-:21].CC[NH+](CC)C/C(=N\[O:10][H:20])C(C)=NO 10=20;20,21=21",
"Cc1ccccc1[N-:10]N=C(C#N)C#N.O=C(c1ccccc1O[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O)[O:21][H:20]>>Cc1ccccc1[N:10](N=C(C#N)C#N)[H:20].O=C(c1ccccc1O[C@H]1O[C@@H](CO)[C@H](O)[C@@H](O)[C@@H]1O)[O-:21] 10=20;20,21=21",
"CC1(C)[C@@H]2CC[C@](C(=O)[O:21][H:20])(C2)[C@@H]1O.CCOCC[N:10](C)c1ccccc1>>CC1(C)[C@@H]2CC[C@](C(=O)[O-:21])(C2)[C@@H]1O.CCOCC[N+:10](C)(c1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)[NH:10]c1ccccc1.[O-]c1ccc([O:21][H:20])cc1>>CC(C)[NH+:10](c1ccccc1)[H:20].[O-]c1ccc([O-:21])cc1 10=20;20,21=21",
"CCC[N:10](CCCl)CCCl.O=C(c1ccc[nH+]c1)[O:21][H:20]>>CCC[N+:10](CCCl)(CCCl)[H:20].O=C(c1ccc[nH+]c1)[O-:21] 10=20;20,21=21",
"CC[N:10](CC)[C@H]1CCC[C@@H]1N(C)C.c1cc[n+:21]([H:20])c(-c2cc[nH+]cc2)c1>>CC[N+:10](CC)([C@H]1CCC[C@@H]1N(C)C)[H:20].c1cc[n:21]c(-c2cc[nH+]cc2)c1 10=20;20,21=21",
"CCSC(C)=[O+:21][H:20].O=Cc1ccc(-c2c[n:10]c(-c3ccccc3)o2)cc1>>CCSC(C)=[O:21].O=Cc1ccc(-c2c[n+:10]([H:20])c(-c3ccccc3)o2)cc1 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCCCCCCCCCCC.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCCCCCCCCCC[NH+:10](CCCCCCCCCCCC)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N:10]1CCCCC1.C[N+:21](C)(c1cccc2ccccc12)[H:20]>>CC(C=C(c1cccs1)c1cccs1)[N+:10]1([H:20])CCCCC1.C[N:21](C)c1cccc2ccccc12 10=20;20,21=21",
"CCC(C)(C)[NH:10]C1CCCCC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCC(C)(C)[NH+:10](C1CCCCC1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(O)=[O+:21][H:20].O=[N+]([O-])c1cnc([NH-:10])nc1>>CC(O)=[O:21].O=[N+]([O-])c1cnc([NH:10][H:20])nc1 10=20;20,21=21",
"C[N:10](c1ccccc1)C(O)O.Cc1ccc([N:21]([N+](=O)[O-])[H:20])cc1>>C[N+:10](c1ccccc1)(C(O)O)[H:20].Cc1ccc([N-:21][N+](=O)[O-])cc1 10=20;20,21=21",
"CCNCC[NH:10]CC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCNCC[NH+:10](CC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC([Se-])C[NH2:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC([Se-])C[NH2+:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Brc1ccc(C2SCC[NH:10]2)cc1.C=CCC(C)(C[N+:21](CC)(CC)[H:20])OC(=O)CCC>>Brc1ccc(C2SCC[NH+:10]2[H:20])cc1.C=CCC(C)(C[N:21](CC)CC)OC(=O)CCC 10=20;20,21=21",
"C/C=C/c1ccc2cccnc2c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C/C=C/c1ccc2cccnc2c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[NH+:21](c1ccccc1C)[H:20].OC(c1cc2ccccc2[nH]1)=[O:10]>>CC[NH:21]c1ccccc1C.OC(c1cc2ccccc2[nH]1)=[O+:10][H:20] 10=20;20,21=21",
"Cc1cc([O:21][H:20])cc(C)c1[N+](=O)[O-].O=C(/C=N/O)/C=N/[O-:10]>>Cc1cc([O-:21])cc(C)c1[N+](=O)[O-].O=C(/C=N/O)/C=N/[O:10][H:20] 10=20;20,21=21",
"O=P([O-])([O-])C([NH2+]Cc1ccccn1)c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=P([O-])([O-])C([NH2+]Cc1ccccn1)c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
